US04897414
5-propylthio-pyrrolidin-2-one
A mixture of 4 g of 5-ethoxy-pyrrolidin-2-one, 30 cm3 of propanethiol and 2 g of Amberlite-15 resin is agitated for 2 hour 45 minutes at ambient temperature. The resin is filtered off, then the excess propanethiol is distillated. 2.8 g of the expected product is obtained, isolated from isopropyl ether. m.p. 40°-42° C.

reactant | 5-ethoxy-pyrrolidin-2-one | 4 g | C(C)OC1CCC(N1)=O | C6H11NO2
reactant | propanethiol | 30 cm3 | C(CC)S | C3H8S
product | 5-propylthio-pyrrolidin-2-one | 2.8 g | C(CC)SC1CCC(N1)=O | C7H13NOS
